US04021434
In 10 ml. of tetrahydrofuran was dissolved 1.0 g. of diethyl 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate and after adding to the solution 0.2 g. of a 50% oil dispersion of sodium hydride, the mixture was stirred for 30 minutes at room temperature. After cooling the mixture to -10° C., 0.5 ml. of 3-chloromethoxy-1-propene was added thereto, the temperature was elevated to room temperature over a period of about 20 minutes, and then after 15 minutes the mixture was cooled again to -10° C. After adding to the reaction product 0.5 ml. of glacial acetic acid and 20 ml. of water, the product was extracted three times each time with 5 ml. of ether at room temperature. The extracts were combined, washed with 5 ml. of saturated aqueous sodium bicarbonate solution, dried over anhydrous sodium sulfate, and then ether was distilled away. The residue was subjected to a silica gel column chromatography using benzene as an eluant. The effluent was then subjected to a thin layer chromatography, and then the effluent or the main fraction was concentrated to provide a white crystalline material. By recrystallizing the crystals from benzene-hexane, 0.74 g. of diethyl 1-allyloxymethyl-2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate melting at 111°-112° C. were obtained.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | diethyl 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C19H22N2O6
reactant | sodium hydride | [H-].[Na+]
reactant | 3-chloromethoxy-1-propene | ClCOCC=C | C4H7ClO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | diethyl 1-allyloxymethyl-2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | C(C=C)OCN1C(=C(C(C(=C1C)C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C23H28N2O7
